* source AMPLIFIER
V_V2         N00286 0 5Vdc
V_V4         N00169 0 DC 0Vdc AC 1Vac 
R_R1         N00169 N00198  1k  
R_R2         N00177 N00286  1k  
R_R3         N00292 N00286  1k  
R_R4         0 N00363  1k  
R_R5         0 N00343  1k  
R_R6         0 N00177  1k  
C_C1         N00198 N00177  1n  
C_C2         0 N00343  1n  
C_C3         N00292 N00363  1n  
Q_Q1         N00292 N00177 N00343 QbreakN 
